US07674825B2
IIc: 3-(5-Phenylpentoxy)-2-pyridinylmethanol
1.9 g (6.01 mmol) of phenylpentyl bromide, 1.00 g (8.00 mmol) of 2-hydroxymethyl-3-pyridinol and 1.2 g (8.8 mmol) of potassium carbonate are heated at reflux overnight. The mixture is taken up in ethyl acetate, washed with water, 2N aqueous sodium hydroxide solution and water, dried and concentrated under reduced pressure.

reactant | phenylpentyl bromide | 6.01 mmol, 1.9 g | C1(=CC=CC=C1)CCCCCBr | C11H15Br
reactant | 2-hydroxymethyl-3-pyridinol | 8.00 mmol, 1.00 g | OCC1=NC=CC=C1O | C6H7NO2
reactant | potassium carbonate | 8.8 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-Phenylpentoxy)-2-pyridinylmethanol | C1(=CC=CC=C1)CCCCCOC=1C(=NC=CC1)CO | C17H21NO2
